US06174896B1
To a 50 ml toluene suspension containing 720 mg of ethyl 1-(4-pyridyl)-1,2,3,4-tetrahydro-2-isoquinolinecarboxylate and 973 mg of 3-quinuclidinol, 102 mg of sodium hydride (60%) was added at room temperature. The resulting mixture was heated under reflux for 5 hours and 40 minutes while the resulting ethanol was removed together with toluene. The reaction mixture was cooled to room temperature, followed by addition of 20 ml of water. The resulting mixture was extracted with chloroform. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol:28% aqueous ammonia=100:2:1), thereby 827 mg of 3-quinuclidinyl 1-(4-pyridyl)-1,2,3,4-tetrahydro-2-isoquinolinecarboxylate were obtained as yellow oil. The resulting oil was dissolved in 5 ml of ethyl acetate, 2 ml of a 4N hydrogen chloride in ethyl acetate solution was added. The solvent was then removed under reduced pressure. Ethanol and ether were added to the residue, and the crude crystals thus obtained was recrystallized from ethanol and ether, thereby 402 mg of 3-quinuclidinyl 1-(4-pyridyl)-1,2,3,4-tetrahydro-2-isoquinolinecarboxylate dihydrochloride was obtained as pale yellow crystals.

reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl 1-(4-pyridyl)-1,2,3,4-tetrahydro-2-isoquinolinecarboxylate | 720 mg | N1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(=O)OCC | C17H18N2O2
reactant | 3-quinuclidinol | 973 mg | N12CC(C(CC1)CC2)O | C7H13NO
reactant | sodium hydride | 102 mg | [H-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-quinuclidinyl 1-(4-pyridyl)-1,2,3,4-tetrahydro-2-isoquinolinecarboxylate | 827 mg | N1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(=O)OC1CN2CCC1CC2 | C22H25N3O2
